US06521666B1
A solution of 2,6-dichlorobenzoylchloride (0.68 mL) in CH2Cl2 (5 mL) was added to a solution of an ice-cold solution of D-tyrosine methyl ester HCl salt (1.0 g) and DIEA (2.26 mL) in CH2Cl2 (15 mL). The mixture was stirred at room temperature for 24 h. The mixture was diluted with CH2Cl2 (50 mL) and washed successively with H2O, 1 N HCl and brine. The organic layer was dried (MgSO4) and evaporated, and the residue was recrystallized from EtOAc and hexanes to yield 1.46 g of N-(2,6-dichlorobenzoyl)-D-tyrosine methyl ester. ESMS: m/z 369 (MH+).

reactant | 2,6-dichlorobenzoylchloride | 0.68 mL | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | D-tyrosine methyl ester HCl salt | 1.0 g | Cl.COC([C@H](N)CC1=CC=C(C=C1)O)=O
reactant | DIEA | 2.26 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2,6-dichlorobenzoyl)-D-tyrosine methyl ester | 1.46 g | COC([C@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)O)=O | C17H15Cl2NO4
